US06335459B1
A solution of 2-(2-isopropyl-3-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole (6.18 g, 25 mmol) in 35% solution of sulfuric acid (40 mL) was stirred at reflux for 48 hours. Upon cooling, solid sodium hydroxide (18.15 g) was slowly added. The reaction mixture was extracted with diethyl ether, and the combined organic extracts were extracted with sodium bicarbonate solution. The bicarbonate extracts were then acidified with 3N hydrochloric acid, filtered and dried to give 2-isopropyl-3-methoxybenzoic acid as a white crystalline solid (1.73 g, 35.7%).

reactant | 2-(2-isopropyl-3-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 25 mmol, 6.18 g | C(C)(C)C1=C(C=CC=C1OC)C=1OCC(N1)(C)C | C15H21NO2
reactant | sodium hydroxide | 18.15 g | [OH-].[Na+]
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 2-isopropyl-3-methoxybenzoic acid | 1.73 g, 35.7% | C(C)(C)C1=C(C(=O)O)C=CC=C1OC | C11H14O3
